US05635197
(4aR)-(10bR)-8-formyl-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
Methyllithium (1.5 mL, 2.1 mmol of a 1.4M solution in diethyl ether) was added to (4aR)-(10bR)-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (0.500 g, 1.7 mmol) in 25 mL of anhydrous THF which had been cooled in a dry ice/isopropanol bath under nitrogen, and was stirred for 15 min before addition of t-butyllithium (2.0 mL, 3.4 mmol of a 1.7M solution in pentane.) After 30 min, dimethylformamide (0.4 mL) was added, and the mixture was allowed to warm to 0°, and additional dimethylformamide (0.2 mL) was added. The ice bath was removed and the reaction was quenched with 1N hydrochloric acid to make pH=2, and then the mixture was extracted with 10% isopropanol/chloroform. The combined organic extracts were washed well with water, dried over sodium sulfate, and evaporated. The resulting product was slurried in diethyl ether before recrystallizing from 50% ethyl acetate/hexane to give off-white crystals: mp 185°-189°. FD MS 243M+; Calcd for C15H17N1O2 : C, 74.05; H, 7.04; N, 5.76; Found: C, 73.85; H, 7.11; N, 5.91.

reactant | Methyllithium | C[Li]
reactant | (4aR)-(10bR)-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 1.7 mmol, 0.500 g | BrC1=CC2=C([C@]3(CCC(N[C@@H]3CC2)=O)C)C=C1 | C14H16BrNO
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | dimethylformamide | 0.4 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 0.2 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | (4aR)-(10bR)-8-formyl-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | C(=O)C1=CC2=C([C@]3(CCC(N[C@@H]3CC2)=O)C)C=C1 | C15H17NO2
